US04946858
(b) Preparation of 2-Carbamoyl-4,5-dichlorobenzoic Acid [(XIX), X=4--Cl, Y=5--Cl]
4,5-Dichlorophthalic acid, anhydride (20.0 g, 92.2 mmol) was dissolved in dry THF (400 mL) and cooled in an ice bath. Ammonia gas was then passed through this solution for 10 minutes to afford a precipitate. The THF was removed and water (400 mL) was added. This aqueous solution was brought to acidic pH with 10% aqueous HCl whereupon a precipitate appeared. This solid was collected, washed with water and dried in vacuo to provide the product (17.3 g, 80%) as a tan solid, m.p. 197°-201° C.

reactant | 4,5-Dichlorophthalic acid, anhydride | 92.2 mmol, 20.0 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | Ammonia | N | H3N
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-Carbamoyl-4,5-dichlorobenzoic Acid | 17.3 g, 80% | C(N)(=O)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl | C8H5Cl2NO3
